US08247429B2
methyl 9-(cyanomethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate
To a solution of 2-[(aminooxy)sulfonyl]-1,3,5-trimethylbenzene (about 16.4 mmol) in acetonitrile (80 mL) was added a solution of 6,7-dihydro-5H-cyclopenta[c]pyridin-7-ylacetonitrile (1.30 g, 8.22 mmol) in acetonitrile (40 mL), and the mixture was stirred at room temperature for 30 min. N,N-Dimethylformamide (40 mL) was added, and the mixture was concentrated under reduced pressure. To 46% of the residual solution were added methyl 3-phenylpropiolate (671 μL, 4.55 mmol) and potassium carbonate (1.31 g, 9.48 mmol), and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=25/75) to give the title compound (523 mg).

reactant | 2-[(aminooxy)sulfonyl]-1,3,5-trimethylbenzene | about 16.4 mmol | NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C9H13NO3S
reactant | 6,7-dihydro-5H-cyclopenta[c]pyridin-7-ylacetonitrile | 8.22 mmol, 1.30 g | C1=NC=CC2=C1C(CC2)CC#N | C10H10N2
reactant | methyl 3-phenylpropiolate | 4.55 mmol, 671 μL | C1(=CC=CC=C1)C#CC(=O)OC | C10H8O2
reactant | potassium carbonate | 9.48 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | N,N-Dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | methyl 9-(cyanomethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 523 mg | C(#N)CC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OC)C1=CC=CC=C1 | C20H17N3O2
